Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Gait unsteadiness and slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ Critical (___) is a ___ F with HTN, history of 
left cerebellar peduncle stroke ___ w/ residual subtle 
weakness of LUE and LLE, as well as LUE, and dysmetria of both 
extremities), on ASA 81mg daily (taken today), breast CA who 
presents w/ acute onset unsteadiness and change in voice 
(muffled
voice). 

Patient was in her USOH until this morning, woke up around 
6:45am. She was at baseline as confirmed by her husband, then 
got into a heated argument with him, and he left the house, at 
which point she was alone. She was feeling well until around 8AM 
when she was walking down the stairs and suddenly felt that it 
was
difficult for her to place both feet in the correct spot and she 
needed to hold on to the wall given imbalance. She did not have 
any focal weakness. She was able to get down the stairs, then 
sat down near the closest chair. She called her daughter to tell 
her that she is not feeling well. The daughter noted her voice 
was muffled and called an ambulance. The daughter also called
patient's friend who came in to check on her. With difficulty, 
the patient was able to walk to the door to open it, but then 
needed to sit down as she felt that she would fall. She denied 
falling to either side or vertigo. She has had similar symptoms 
of imbalance w/ per prior stroke.

No recent illness, but daughter mentions that she may have 
symptoms of depression due to trauma in remote history. 
 
Past Medical History:
Ischemic Stroke (left cerebellar peduncle stroke)- ___
HTN
Breast cancer
Lumpectomy
Cholecystectomy 
 
Social History:
___
Family History:
Positive for diabetes mellitus (both parents). Father died of 
prostate cancer.  One sister died of complications of diabetes 
mellitus.  A brother died of asthma.  A second brother died of 
complications of hepatitis B acquired through IVDA.
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: Afebrile, HR 78, BP 148/66, RR 18, SpO2 97% RA 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:

- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Hypophonic voice. Normal prosody. 
No
apraxia. No evidence of hemineglect. No left-right confusion.
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
   [___]
 L   5     5    5    5    ___    5     5   5    5    5
 R   5     5    5    5    ___    5     5   5    5    5  
  
 - Reflexes: 
    [Bic] [Tri] [___] [Patella] [Achilles]
  L  2+    2+     2+        2+       1
  R  2+    2+     2+        2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: LUE and LLE dysmetria. No truncal ataxia.

- Gait: Sways during Romberg Testing. Was able to take few steps
with a wide gait but felt unsteady and asked to sit down. 

DISCHARGE EXAM:
===============
VS: Temp: 98.1 (Tm 98.3), BP: 125/79 (125-168/74-89), HR: 78
(69-88), RR: 18, O2 sat: 94% (94-100), O2 delivery: Ra     
 
General: Awake, cooperative, NAD seated upright in bed 
HEENT: MMM, no oral lesions
CV: RRR, warm and well perfused 
Lungs: Breathing comfortably on RA

Neurologic Examination:
- Mental status: Awake, alert, oriented. Fluent speech.  No
paraphasias. Normal prosody. No apraxia. Mild - though improving
- dysarthria with repetative lingual sounds. No evidence of
hemineglect. Able to follow both midline and appendicular
commands.

- Cranial Nerves: PERRL. VF full to number counting. EOMI, no
nystagmus. V1-V3 without deficits to light touch bilaterally. No
facial movement asymmetry. Improving lingual and guttural
dysarthria. Palate elevation symmetric.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
Right pronation but no drift. Strength is otherwise full
throughout. Full lower extremity strength
  
- Reflexes: Deferred today. 

- Sensory: intact to light touch

- Coordination: There is bilateral dysmetria with FNF, L > R
overall much improved on the right. Difficulty with finger
tapping. Cadence off. Heal to shin on the right is appropriate.
More difficulty with left. 

- Gait: Deferred today.  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:10AM URINE  HOURS-RANDOM
___ 10:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:10AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:36AM   GLUCOSE-148* CREAT-0.7 NA+-136 K+-4.4 CL--108 
TCO2-25
___ 09:36AM   estGFR-Using this
___ 09:25AM   UREA N-11
___ 09:25AM   ALT(SGPT)-11 AST(SGOT)-29 ALK PHOS-68 TOT 
BILI-0.2
___ 09:25AM   cTropnT-<0.01
___ 09:25AM   ALBUMIN-4.1
___ 09:25AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:25AM   WBC-5.2 RBC-4.81 HGB-12.0 HCT-39.9 MCV-83 
MCH-24.9* MCHC-30.1* RDW-13.6 RDWSD-41.3
___ 09:25AM   NEUTS-64.8 ___ MONOS-9.8 EOS-1.7 
BASOS-1.0 IM ___ AbsNeut-3.37 AbsLymp-1.16* AbsMono-0.51 
AbsEos-0.09 AbsBaso-0.05
___ 09:25AM   ___ PTT-28.3 ___
___ 09:25AM   PLT COUNT-232

INTERVAL RELEVANT LABS:
=======================
___ 05:35AM BLOOD %HbA1c-6.3* eAG-134*
___ 05:35AM BLOOD Triglyc-114 HDL-51 CHOL/HD-3.5 
LDLcalc-103

IMAGING:
========
CTA HEAD/NECK ___:
1. The vessels of the head and neck appear patent and without 
high-grade 
stenosis, occlusion, or aneurysm formation. 
2. 0.6 cm hypodense lesion within the right thyroid lobe. 

MRI HEAD WITH/WITHOUT CONTRAST ___:
1. Acute small left basal ganglia infarct. 
2. No intracranial hemorrhage or midline shift. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ is a ___ year old right handed woman with HTN, prior 
left cerebellar peduncle stroke ___ w/ residual left sided 
dysmetria), and breast CA who presented with acute onset 
unsteadiness and change in voice subsequently found to have a 
small left basal ganglia vs. thalamic stroke.

Her neurologic exam was notable for dysarthria, unsteadiness 
with standing and walking, and chronic LUE and LLE dysmetria.

Etiology of infarct likely due to hypertensive small vessel 
disease. Patient's SBP was > 200 mmHg in the ambulance en route 
to ___.

Stroke risk factor labs notable for LDL 103, TSH 0.87,and A1c 
6.3%. She was started on Rosuvastatin 10 mg QHS for her elevated 
LDL cholesterol. 

TRANSITIONAL ISSUES:
====================
# Started aspirin and Plavix. Patient should continue Plavix for 
3 weeks (last dose ___ and then continue on aspirin 
monotherapy per POINT trial. 

# Patient's hemoglobin A1c was 6.3% consistent with 
pre-diabetes. Consider outpatient initiation of metformin or 
other anti-hyperglycemic agent. 

# Consider outpatient titration of anti-hypertensive regimen. 
Given stable BPs in house, we did not feel this was necessary to 
do so emergently.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 103) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QAM 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
Stop taking after last dose on ___  
2.  Rosuvastatin Calcium 10 mg PO QPM  
3.  Aspirin 81 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QAM  
5.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke
Hypertension
Pre-diabetes 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking care of you at ___ 
___.

You were hospitalized due to symptoms of slurred speech and 
difficulty walking resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 
- High blood pressure
- Pre-diabetes (elevated blood sugars)
- High cholesterol 
  
We are changing your medications as follows:  

- Started daily aspirin 81 mg daily to help reduce your risk of 
another stroke 
- Started Plavix 75 mg daily to help reduce your risk of another 
stroke 
- Started Rosuvastatin 10 mg every night to help reduce your 
cholesterol
  
Please take your other medications as prescribed.  

We also recommend that you start to record your blood pressures 
at home. You can purchase a home BP cuff at your local pharmacy 
and you should record your blood pressure at least twice per 
day. Bring this list of recordings to your next primary care 
appointment. 

Please follow up with neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___